US08217066B2
Step 3: 1-{4′-[3-Methyl-4-(3-phenyl-propionyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 39, Step 1, using 1-{4′-[4-(1-hydroxy-allyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester and iodobenzene. The crude material was purified on silica gel (0-60% EtOAc in hexanes) to give a separable mixture of two compounds, one of which was the title compound.

reactant | 1-{4′-[4-(1-hydroxy-allyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(C=C)O | C25H25NO4
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 1-{4′-[3-Methyl-4-(3-phenyl-propionyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(CCC1=CC=CC=C1)=O | C31H29NO4
